// Generated for: spectre
// Generated on: Nov  5 19:52:31 2012
// Design library name: Lab8
// Design cell name: Lab8_test
// Design view name: schematic
simulator lang=spectre
global 0
parameters beta=2.5 lambda=50n
include "/afs/ece.cmu.edu/class/ece320/F10/gpdk090_v4.5/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN

// Library name: Lab8
// Cell name: nand2
// View name: schematic
subckt nand2 A B OUT VDD VSS
    NM1 (net5 A VSS VSS) gpdk090_nmos1v w=(120n) l=100n as=69.6f ad=17.4f \
        ps=1.16u pd=290.00n m=(1)*(1) simM=(1)*(1)
    NM0 (OUT B net5 VSS) gpdk090_nmos1v w=(120n) l=100n as=17.4f ad=69.6f \
        ps=290.00n pd=1.16u m=(1)*(1) simM=(1)*(1)
    PM1 (OUT A VDD VDD) gpdk090_pmos1v w=(120n) l=100n as=69.6f ad=69.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
    PM0 (OUT B VDD VDD) gpdk090_pmos1v w=(120n) l=100n as=69.6f ad=69.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
ends nand2
// End of subcircuit definition.

// Library name: Lab8
// Cell name: inverter
// View name: schematic
subckt inverter IN OUT VDD VSS
    NM0 (OUT IN VSS VSS) gpdk090_nmos1v w=(120n) l=100n as=69.6f ad=69.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
    PM0 (OUT IN VDD VDD) gpdk090_pmos1v w=(120n) l=100n as=69.6f ad=69.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
ends inverter
// End of subcircuit definition.

// Library name: Lab8
// Cell name: Lab8
// View name: schematic
subckt Lab8 VDD VSS in1 in2 out
    I7 (net044 net22 out VDD VSS) nand2
    I6 (in1 in1 net22 VDD VSS) nand2
    I5 (in1 net055 net044 VDD VSS) nand2
    I3 (in2 net055 VDD VSS) inverter
ends Lab8
// End of subcircuit definition.

// Library name: Lab8
// Cell name: Lab8_test
// View name: schematic
V1 (in2 0) vsource type=pulse val0=0 val1=1.2 period=1n delay=50p rise=50p \
        fall=50p width=300p
V0 (in 0) vsource type=pulse val0=0 val1=1.2 period=1n delay=50p rise=50p \
        fall=50p width=300p
V3 (vss 0) vsource dc=0 type=dc
V2 (vdd 0) vsource dc=1.2V type=dc
I0 (vdd vss in in2 out) Lab8
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=5n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
