// Generated for: spectre
// Generated on: Nov 15 02:41:53 2012
// Design library name: lab8B
// Design cell name: MUX2_testbench
// Design view name: schematic
simulator lang=spectre
global 0
include "/afs/ece.cmu.edu/class/ece320/F10/gpdk090_v4.5/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN

// Library name: lab6
// Cell name: inv1
// View name: schematic
subckt inv1 IN OUT VDD VSS
    NM0 (OUT IN VSS VSS) gpdk090_nmos1v w=(400n) l=100n as=112f ad=112f \
        ps=1.36u pd=1.36u m=(1)*(1) simM=(1)*(1)
    PM0 (OUT IN VDD VDD) gpdk090_pmos1v w=(800n) l=100n as=224f ad=224f \
        ps=2.16u pd=2.16u m=(1)*(1) simM=(1)*(1)
ends inv1
// End of subcircuit definition.

// Library name: lab8B
// Cell name: MUX2
// View name: schematic
subckt MUX2 D0 D1 SEL0 VDD VSS Y
    I2 (net24 Y VDD VSS) inv1
    I1 (S0X S0 VDD VSS) inv1
    I0 (SEL0 S0X VDD VSS) inv1
    PM1 (D1 S0X net24 VDD) gpdk090_pmos1v w=(800n) l=100n as=224f ad=224f \
        ps=2.16u pd=2.16u m=(1)*(1) simM=(1)*(1)
    PM0 (D0 S0 net24 VDD) gpdk090_pmos1v w=(800n) l=100n as=224f ad=224f \
        ps=2.16u pd=2.16u m=(1)*(1) simM=(1)*(1)
    NM1 (D1 S0 net24 VSS) gpdk090_nmos1v w=(400n) l=100n as=112f ad=112f \
        ps=1.36u pd=1.36u m=(1)*(1) simM=(1)*(1)
    NM0 (D0 S0X net24 VSS) gpdk090_nmos1v w=(400n) l=100n as=112f ad=112f \
        ps=1.36u pd=1.36u m=(1)*(1) simM=(1)*(1)
ends MUX2
// End of subcircuit definition.

// Library name: lab8B
// Cell name: MUX2_testbench
// View name: schematic
I0 (D0 D1 SEL0 VDD GND net24) MUX2
I4 (net24 OUT3 VDD GND) inv1
I3 (net24 OUT4 VDD GND) inv1
I2 (net24 OUT2 VDD GND) inv1
I1 (net24 OUT1 VDD GND) inv1
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=5n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
