// Generated for: spectre
// Generated on: Dec  7 12:26:50 2012
// Design library name: lab9
// Design cell name: preLab_sim
// Design view name: schematic
simulator lang=spectre
global 0
parameters beta=2 lambda=50n
include "/afs/ece.cmu.edu/class/ece320/F10/gpdk090_v4.5/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN

// Library name: lab9
// Cell name: inverter
// View name: schematic
subckt inverter GND IN OUT VDD
parameters width length
    NM0 (OUT IN GND GND) gpdk090_nmos1v w=(width) l=length as=112f ad=112f \
        ps=1.36u pd=1.36u m=(1)*(1) simM=(1)*(1)
    PM0 (OUT IN VDD VDD) gpdk090_pmos1v w=(width*beta) l=length as=560f \
        ad=560f ps=4.56u pd=4.56u m=(1)*(1) simM=(1)*(1)
ends inverter
// End of subcircuit definition.

// Library name: lab9
// Cell name: preLab_sim
// View name: schematic
I0 (GND IN OUT VDD) inverter width=8*lambda length=2*lambda
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=1n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
