// Generated for: spectre
// Generated on: Nov 29 11:59:01 2012
// Design library name: lab9
// Design cell name: test2
// Design view name: schematic
simulator lang=spectre
global 0
parameters beta=2
include "/afs/ece.cmu.edu/class/ece421/gpdk090_v4.4/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN

// Library name: Lab8
// Cell name: inverter
// View name: schematic
subckt inverter IN OUT VDD VSS
    NM0 (OUT IN VSS VSS) gpdk090_nmos1v w=(120n) l=100n as=69.6f ad=69.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
    PM0 (OUT IN VDD VDD) gpdk090_pmos1v w=(120n) l=100n as=69.6f ad=69.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
ends inverter
// End of subcircuit definition.

// Library name: lab9
// Cell name: test2
// View name: schematic
I16 (a b VDD 0) inverter
I17 (b net12 VDD 0) inverter
I18 (net12 OUT VDD 0) inverter
I14 (IN net15 VDD 0) inverter
I15 (net15 a VDD 0) inverter
V2 (VDD 0) vsource dc=1.2 type=dc
V0 (IN 0) vsource type=pulse val0=0 val1=1.2 period=1n delay=50p rise=50p \
        fall=50p width=300p
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=5n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
save a b 
saveOptions options save=allpub
